US07612113B2
To a stirred solution of 7-ethoxy-5,8-dihydronaphthalen-1-ylamine (0.16 g, 0.84mmol) in tetrahydrofuran (15 mL) was added 4-chloro-3-trifluoromethyl-phenylisocyanate (0.22 g, 1.0 mmol). The mixture was stirred at room temperature for 1.5 hours and was poured into water. The product was extracted with ethylacetate, and the organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure to afford N-(4-chloro-3-trifluoromethyl-phenyl)-N′-(7-ethoxy-5,8-dihydro-naphthalen-1-yl)urea (0.31 g, 89% yield). Next, to a solution of N-(4-chloro-3-trifluoromethyl-phenyl)-N′-(7-ethoxy-5,8-dihydro-naphthalen 1-yl)-urea (0.21 g, 0.51 mmol) in tetrahydrofuran (20 mL) was added a solution of aqueous 1N hydrochloric acid (5 mL), and the mixture was stirred at 40° C. for 45 minutes. The mixture was neutralized with addition of 10% aqueous sodium bicarbonate solution, and extracted with ethylacetate. The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure to afford N(4-chloro-3-tri-fluoromethyl-phenyl)-N′-(7-oxo-5,6,7,8-tetrahydro-naphthalen-1-yl)urea (0.16 g, 85% yield). Next, to N-(4-chloro-3-trifluoromethyl-phenyl)-N′-7-oxo-5,6,7,8-tetrahydro-naphthalen-1-yl)urea (0.07 g, 0.18 mmol) in methanol (10 mL) was added sodium borohydride (0.04 g, 0.09 mmol) at 0° C., and the mixture was stirred for 30 minutes. The mixture was poured into water, and the product was extracted with ethylacetate. The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure, and the obtained product was recrystalized from a mixture of ethylacetate/hexane (1/2) solution to give N-[4chloro-3-(trifluoromethyl)phenyl]-N′-(7-hydroxy-5,6,7,8-tetrahydro-1-naphthalenyl)urea (41 mg, 59% yield)

reactant | 7-ethoxy-5,8-dihydronaphthalen-1-ylamine | 0.84mmol, 0.16 g | C(C)OC1=CCC=2C=CC=C(C2C1)N | C12H15NO
reactant | 4-chloro-3-trifluoromethyl-phenylisocyanate | 1.0 mmol, 0.22 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | N-(4-chloro-3-trifluoromethyl-phenyl)-N′-(7-ethoxy-5,8-dihydro-naphthalen-1-yl)urea | 0.31 g, 89% yield | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=CC=2CC=C(CC12)OCC)C(F)(F)F | C20H18ClF3N2O2
